US08039480B2
8-azaspiro[4.5]decane-8-carbonyl chloride
1.57 ml of phosgene (20% solution in toluene, 2.96 mmol) were initially charged in 5 ml of dichloroethane and cooled to −20° C., then a mixture of 8-azaspiro-[4,5]decane (750 mg, 2.96 mmol) and triethylamine (1.28 ml, 9.2 mmol, 3.1 eq.) was added slowly. After 30 min, the mixture was allowed to come to RT; after 1 h, according to LC-MS, a little starting material was still present but also three new peaks. Subsequently, the mixture was added to 2 N aqueous HCl, the aqueous phase was extracted with dichloromethane, and the organic phase was washed with saturated NaHCO3 solution and dried over sodium sulfate; subsequently, the mixture was concentrated by rotary evaporation under reduced pressure. Crude yield: 592 mg

reactant | phosgene | 2.96 mmol, 1.57 ml | C(=O)(Cl)Cl | CCl2O
reactant | 8-azaspiro-[4,5]decane | 2.96 mmol, 750 mg | C1CCCC12CCNCC2 | C9H17N
reactant | triethylamine | 9.2 mmol, 1.28 ml, 3.1 eq. | C(C)N(CC)CC | C6H15N
reactant | HCl | 2 N | Cl | ClH
solvent | dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
product | 8-azaspiro[4.5]decane-8-carbonyl chloride | C1CCCC12CCN(CC2)C(=O)Cl | C10H16ClNO
